US08193228B2
1-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]-2,2-difluoro-2-[4-(5-fluoropyridin-2-yl)phenyl]ethane-1,1-diol
Hydrogen chloride (4 M in 1,4-dioxane) (1 mL, 4 mmol) was added to an ambient temperature solution of 2-{difluoro[4-(5-fluoropyridin-2-yl)phenyl]acetyl}-4-(2,2-dimethylpropyl)-N,N-dimethyl-1H-imidazole-1-sulfonamide (20 mg, 0.04 mmol) in methanol (2 mL). After stirring at 70° C. for 1 h, volatiles were removed. The residue was partitioned between ethyl acetate and 10% aqueous sodium hydroxide. The aqueous phase was extracted with ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-50% ethyl acetate/hexane afforded the title compound. LCMS: 406 (M+H).

reactant | Hydrogen chloride | 4 mmol, 4 M, 1 mL | Cl | ClH
reactant | 2-{difluoro[4-(5-fluoropyridin-2-yl)phenyl]acetyl}-4-(2,2-dimethylpropyl)-N,N-dimethyl-1H-imidazole-1-sulfonamide | 0.04 mmol, 20 mg | FC(C(=O)C=1N(C=C(N1)CC(C)(C)C)S(=O)(=O)N(C)C)(C1=CC=C(C=C1)C1=NC=C(C=C1)F)F | C23H25F3N4O3S
reactant | methanol | 2 mL | CO | CH4O
product | 1-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]-2,2-difluoro-2-[4-(5-fluoropyridin-2-yl)phenyl]ethane-1,1-diol | CC(CC=1N=C(NC1)C(C(C1=CC=C(C=C1)C1=NC=C(C=C1)F)(F)F)(O)O)(C)C | C21H22F3N3O2
